US07605170B2
Tetrakis(triphenylphosphine)palladium (0) (116 mg, 0.1 mmol) was added to 5-bromobiphenyl-3-ol (250 mg, 1 mmol) and zinc cyanide (117 mg, 1.0 mmol) dissolved in DMF (5 mL) in a microwave vessel. The reaction vessel was sealed and then heated at 200° C. for 300 seconds. The reaction was quenched with water and the product was extracted into DCM. The solution was filtered and then concentrated in vacuo. The crude material was then purified by chromatography on silica gel. Elution with 10:90 ethyl acetate:heptane afforded 5-hydroxybiphenyl-3-carbonitrile (74 mg, 0.379 mmol, 38%). M.S. (ESI) (m/z): 194 [M−H]−.

reactant | 5-bromobiphenyl-3-ol | 1 mmol, 250 mg | BrC=1C=C(C=C(C1)C1=CC=CC=C1)O | C12H9BrO
reactant | heptane | CCCCCCC | C7H16
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 1.0 mmol, 117 mg | [C-]#N.[Zn+2].[C-]#N
product | 5-hydroxybiphenyl-3-carbonitrile | 0.379 mmol, 74 mg, 38% | OC=1C=C(C=C(C1)C1=CC=CC=C1)C#N | C13H9NO
